US07667041B2
Sodium methoxide (1.40 g) was gradually added to a THF (50 mL) solution of 2,6-dichloro-3-nitropyridine (5.00 g) over 30 minutes under ice-cooling. Then, the reaction solution was agitated at 0° C. for 1 hour, and agitated at room temperature for further 12 hours. The reaction solution was poured into a saturated ammonium chloride solution (50 mL), and extracted with ethyl acetate. After drying the organic layer over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 2:1), and 2.90 g (58%) of 6-chloro-2-methoxy-3-nitropyridine was obtained. The physical properties of the compound are as follows.

reactant | Sodium methoxide | 1.40 g | C[O-].[Na+]
reactant | 2,6-dichloro-3-nitropyridine | 5.00 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-chloro-2-methoxy-3-nitropyridine | 2.90 g, 58% | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
